US09422274B2
Step (1). (R)-3-(3-fluoro-4-iodophenyl)-5-((4-(2-hydroxyethyl)-1H-1,2,3-triazol-1-yl)methyl)oxazolidin-2-one
In Ar atmosphere, (R)-5-(azidomethyl)-3-(3-fluoro-4-iodophenyl)oxazolidin-2-one (WO 2003022824 or F. Reck, et al. J. Med. Chem. 2007, 50, 4868, 70 mg, 0.19 mmol) and but-3-yn-1-ol (27 mg, 0.38 mmol) were dissolved in t-BuOH/H2O (1 mL: 0.5 mL), added with CuSO4 (7 mg, 0.042 mmol) and Sodium ascorbate (8 mg, 0.042 mmol), and agitated at a room temperature for 1 hour. The reacting solution was concentrated under vacuum, added with H2O (5 mL) and extracted with DCM (10 mL×2). Collected organic layer was washed with brine, dried with Na2SO4, filtrated and concentrated under vacuum. The concentrated product was purified with column chromatography ((MC:MeOH:H2O:NH4OH=280:20:1:1), to obtain the subject compound (86 mg).

reactant | (R)-5-(azidomethyl)-3-(3-fluoro-4-iodophenyl)oxazolidin-2-one | 0.19 mmol, 70 mg | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)I)F | C10H8FIN4O2
reactant | but-3-yn-1-ol | 0.38 mmol, 27 mg | C(CC#C)O | C4H6O
reactant | Sodium ascorbate | 0.042 mmol, 8 mg | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-BuOH H2O | 1 mL | CC(C)(C)O.O
catalyst | CuSO4 | 0.042 mmol, 7 mg | [O-]S(=O)(=O)[O-].[Cu+2]
product | (R)-3-(3-fluoro-4-iodophenyl)-5-((4-(2-hydroxyethyl)-1H-1,2,3-triazol-1-yl)methyl)oxazolidin-2-one | 86 mg | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CN1N=NC(=C1)CCO)=O | C14H14FIN4O3
